US07612088B2
d) 3-(8-Hydroxy-5,6,7,8-tetrahydroimidazo[1,5-a]pyridin-8-yl)pyrrolidin-2-one
1.25 ml of n-butyllithium (1.6M in hexane) are added dropwise to a solution to 0.29 ml of diisopropylamine and 2 ml of tetrahydrofuran at −78° C. After 30 minutes, a solution, cooled to −78° C., of 0.31 g of 1-trimethylsilanylpyrrolidin-2-one and 5 ml of tetrahydrofuran is added dropwise. The mixture is stirred for a further 30 minutes and then a solution of 0.27 g of 6,7-dihydro-5H-imidazo[1,5-a]pyridin-8-one [426219-51-4] and 5 ml tetrahydrofuran is added dropwise. The reaction mixture is stirred at −78° C. for 1 hour and then at 0° C. for 2 hours. The mixture is quenched with saturated aqueous ammonium chloride solution/water (1:1), the tetrahydrofuran is evaporated, and the residue is extracted with dichloromethane (3×). The combined organic phases are dried with sodium sulphate and evaporated. The title compound is identified from the residue by flash chromatography (SiO2 60F) on the basis of the Rf.

reactant | n-butyllithium | 1.6M, 1.25 ml | C(CCC)[Li]
reactant | diisopropylamine | 0.29 ml | C(C)(C)NC(C)C | C6H15N
reactant | 1-trimethylsilanylpyrrolidin-2-one | 0.31 g | C[Si](N1C(CCC1)=O)(C)C | C7H15NOSi
reactant | 6,7-dihydro-5H-imidazo[1,5-a]pyridin-8-one | 0.27 g | C=1N=CN2C1C(CCC2)=O | C7H8N2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 3-(8-Hydroxy-5,6,7,8-tetrahydroimidazo[1,5-a]pyridin-8-yl)pyrrolidin-2-one | OC1(C=2N(CCC1)C=NC2)C2C(NCC2)=O | C11H15N3O2
